US06900209B2
Step 1: 2-Bromo-5-(1-methylpyrrolidin-2-yl)pyridine
A solution of BuLi (16.9 mmol) in hexanes (1.6 M, 10.6 ml) was added to a stirred solution of 2,5-dibromopyridine (40 g, 16.9 mmol) in Et2O (300 ml) at −78° C. under N2. The resulting suspension was then stirred at −78° C. for 1 h. N-Methyl pyrrolidinone (1.62 ml, 16.9 mmol) was added and the reaction allowed to warm slowly to room temperature and then stirred at RT for a further 1 h. NH4Cl solution (50 ml) was added and the organics were extracted with Et2O (3×100 ml). The combined organics were washed with brine (50 ml) and then concentrated under reduced pressure. The crude residue was taken up in 1,2-dichloroethane (50 ml), sodium triacetoxyborohydride (3.94 g, 16.9 mmol) was added portionwise and then the reaction mixture was stirred at room temperature overnight. 2 N NaOH solution (50 ml) was added and the organics were extracted with CH2Cl2 (3×100 ml), dried (MgSO4), and concentrated under reduced pressure. The resulting crude residue was purified by column chromatography on silica using 3% MeOH/CH2Cl2 containing 1% NH3 to yield the desired pyridine (480 mg, 10%). m/z (ES+) 241, 243 (1:1, M+H+).

reactant | BuLi | 16.9 mmol | [Li]CCCC
reactant | 2,5-dibromopyridine | 16.9 mmol, 40 g | BrC1=NC=C(C=C1)Br | C5H3Br2N
reactant | N-Methyl pyrrolidinone | 16.9 mmol, 1.62 ml | CN1CCCC1=O | C5H9NO
reactant | NH4Cl | 50 ml | [NH4+].[Cl-]
reactant | sodium triacetoxyborohydride | 16.9 mmol, 3.94 g | C(C)(=O)O[BH-](OC(C)=O)OC(C)=O.[Na+]
reactant | NaOH | 2 N, 50 ml | [OH-].[Na+]
solvent | Et2O | 300 ml | CCOCC | C4H10O
product | 2-Bromo-5-(1-methylpyrrolidin-2-yl)pyridine | BrC1=NC=C(C=C1)C1N(CCC1)C | C10H13BrN2
